US05576324
70% Nitric acid (10 ml, d=1.42) was added dropwise to 2-hydroxymethyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one while cooling on ice, and the mixture was stirred at the same temperature for 20 minutes. The reaction mixture was poured into ice and water (200 ml), and precipitated crystals were collected by filtration. After drying with air, recrystallization was performed using methanol to obtain 3.0 g of 2-hydroxymethyl-nitro-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one as yellowish brown prisms (75.3%, mp. 215°-218° C.).

reactant | Nitric acid | 10 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2-hydroxymethyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one | OCC1CC=2C(=C3C=CC(NC3=CC2)=O)O1 | C12H11NO3
solvent | water | 200 ml | O | H2O
product | 2-hydroxymethyl-nitro-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one | 3.0 g, 75.3% | OCC1(CC=2C(=C3C=CC(NC3=CC2)=O)O1)[N+](=O)[O-] | C12H10N2O5
